US04235820
3-Amino-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cyclohepten-5-ol
Magnesium turnings (6.2 g., 0.255 mole) covered with dry tetrahydrofuran (30 ml.) in carefully-dried apparatus are treated with a solution of 3-ethoxypropylbromide (42.5 g., 0.255 mole) added dropwise to maintain reflux. After preparation of the Grignard reagent according to standard procedures, the mixture is cooled, and 16 g. (0.072 mole) of 3-amino-5H-dibenzo[a,d]cyclohepten-5-one added in portions over 5 minutes. The reaction is stirred 15 minutes, then poured into 200 ml. of saturated aqueous ammonium chloride. The layers are separated, and the aqueous layer extracted once with ether. The ether layer, combined with the original organic phase, is washed once with water, dried over sodium sulfate, and evaporated in vacuo to give the title compound in essentially quantitative yield.

reactant | Magnesium | 0.255 mole, 6.2 g | [Mg] | Mg
reactant | 3-ethoxypropylbromide | 0.255 mole, 42.5 g | C(C)OCCCBr | C5H11BrO
reactant | 3-amino-5H-dibenzo[a,d]cyclohepten-5-one | 0.072 mole | NC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1 | C15H11NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Amino-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cyclohepten-5-ol | quantitative yield | NC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)(O)CCCOCC)C1 | C20H23NO2
